US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (384 mg, 2.37 mmole) in 4 mL of dry acetonitrile is 0.51 mL (4.74 mmol) of 1-methyl-2-methoxyethylamine followed by 328 mg (2.37 mmol) of potassium carbonate. The reaction is heated at 80° C. for 3 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 395 mg (78% yield) of (6-Chloro-pyridin-3-ylmethyl)-(2-methoxy-ethyl)-methyl-amine. Diagnostic 1H NMR (400 MHz, CDCl3) 2.25 (s, 3H), 2.59 (t, 2H, J=5.6 Hz), 3.32 (s, 3H), 3.49 (t, 2H, J=5.6 hz), 7.26 (d, 1H, J=8.5 Hz), 7.68 (dd, 1H, J=8.3 and 2.5 Hz), 8.27 9d, 1H, J=1.6 Hz); MS 215.2 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 2.37 mmole, 384 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 1-methyl-2-methoxyethylamine | 4.74 mmol, 0.51 mL | CC(COC)N | C4H11NO
reactant | potassium carbonate | 2.37 mmol, 328 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (6-Chloro-pyridin-3-ylmethyl)-(2-methoxy-ethyl)-methyl-amine | 395 mg, 78% yield | ClC1=CC=C(C=N1)CN(C)CCOC | C10H15ClN2O
